US07923573B2
Chloromethyl methyl ether (0.5 ml, 6.59 mmol) and diisopropylethylamine (1.44 ml, 8.24 mmol) were added to a solution of 4′-hydroxy-1,1′-biphenyl-4-carbonitrile (1.07 g, 5.49 mmol) in methylene chloride (10 ml), and the mixture was stirred at room temperature for 16 hours. After water was added to the reaction mixture and the mixture was extracted with ethyl acetate, the organic layer was washed with a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=5/1) to give 4′-methoxymethoxy-1,1′-biphenyl-4-carbonitrile (1.03 g, yield: 78%).

reactant | Chloromethyl methyl ether | 6.59 mmol, 0.5 ml | COCCl | C2H5ClO
reactant | diisopropylethylamine | 8.24 mmol, 1.44 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4′-hydroxy-1,1′-biphenyl-4-carbonitrile | 5.49 mmol, 1.07 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4′-methoxymethoxy-1,1′-biphenyl-4-carbonitrile | 1.03 g, yield: 78% | COCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C15H13NO2
